US07067517B2
Methyl-phenyl-carbamic acid 3-nitro-pyridin-2-yl ester
A solution of 2-hydroxy-3-nitropyridine (0.42 g, 3.00 mmol), 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (1.03 g, 3.00 mmol) and triethylamine (0.42 ml, 3.00 mmol) in acetonitrile (15 ml) was stirred at room temperature for 3 days. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (40:60)) yielding the title compound (0.41 g, 50% yield) as a yellow solid.

reactant | 2-hydroxy-3-nitropyridine | 3.00 mmol, 0.42 g | OC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O3
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 3.00 mmol, 1.03 g | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
reactant | triethylamine | 3.00 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl-phenyl-carbamic acid 3-nitro-pyridin-2-yl ester | 0.41 g, 50% yield | [N+](=O)([O-])C=1C(=NC=CC1)OC(N(C1=CC=CC=C1)C)=O | C13H11N3O4
